US05021430
A solution of 1.0 g of (S,S)-2,4-dibenzylglutaric anhydride and 0.54 g of 4-hydroxymethyl-2,2-dimethyl-1,3-dioxolane in 10 ml of toluene is refluxed overnight. The solution is washed with water, dried (Na2SO4), filtered and concentrated to give 4-[(2,2-dimethyl-1,3-dioxolan-4-yl)-methoxycarbonyl]-(S,S)-2,4-dibenzylbutyric acid as a viscous oil.

reactant | (S,S)-2,4-dibenzylglutaric anhydride | 1.0 g | C(C1=CC=CC=C1)[C@H]1C(=O)OC([C@@H](C1)CC1=CC=CC=C1)=O | C19H18O3
reactant | 4-hydroxymethyl-2,2-dimethyl-1,3-dioxolane | 0.54 g | OCC1OC(OC1)(C)C | C6H12O3
solvent | toluene | 10 ml | C1(=CC=CC=C1)C | C7H8
product | 4-[(2,2-dimethyl-1,3-dioxolan-4-yl)-methoxycarbonyl]-(S,S)-2,4-dibenzylbutyric acid | CC1(OCC(O1)COC(=O)[C@@H](C[C@H](C(=O)O)CC1=CC=CC=C1)CC1=CC=CC=C1)C | C25H30O6
